US04963564
1-[4-Hydroxy-3-(hydroxymethyl)phenyl]-2-[(phenylmethyl)[6-[[6-(2-pyridinyl)hexyl]oxy]hexyl]amino]ethanone
A solution of 2-bromo-1-[4-hydroxy-3-(hydroxymethyl)phenyl]ethanone (1.00 g), N-[6-[[6-(2-pyridinyl)hexy]oxy]hexyl]benzenemethanamine (1.5 g) and DEA (1.58 g) in THF (20 ml) was left to stand for 24 h. The reaction mixture was filtered and the filtrate was concentrated to give an oil which was purified by FCC eluting with System B (95:5:1), to give the title compound as a yellow oil (1.96 g), t.l.c. (System A 80:20:2)) Rf 0.33.

reactant | 2-bromo-1-[4-hydroxy-3-(hydroxymethyl)phenyl]ethanone | 1.00 g | BrCC(=O)C1=CC(=C(C=C1)O)CO | C9H9BrO3
reactant | N-[6-[[6-(2-pyridinyl)hexy]oxy]hexyl]benzenemethanamine | 1.5 g | N1=C(C=CC=C1)CCCCCCOCCCCCCNCC1=CC=CC=C1 | C24H36N2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[4-Hydroxy-3-(hydroxymethyl)phenyl]-2-[(phenylmethyl)[6-[[6-(2-pyridinyl)hexyl]oxy]hexyl]amino]ethanone | 1.96 g | OC1=C(C=C(C=C1)C(CN(CCCCCCOCCCCCCC1=NC=CC=C1)CC1=CC=CC=C1)=O)CO | C33H44N2O4
